US08058276B2
Step 12.4: 6-(2-Amino-6-chloro-pyrimidin-4-yloxy)-benzo[b]thiophene-3-carboxylic acid ethyl ester
A mixture of 2.563 g (11.5 mMol) 6-hydroxy-benzo[b]thiophene-3-carboxylic acid ethyl ester, 3.06 g (18.5 mMol) 2-amino-4,6-dichloropyrimidine and 5.15 g (23 mMol) K3PO4 in 87 ml NMP is stirred for 1.5 h at 60° C. Then the mixture is poured into EtOAc and water, the aq. layer separated off and extracted 3 times with EtOAc. The organic phases are washed with water and brine, dried (Na2SO4) and concentrated. Trituration in ether and filtration gives the title compound: m.p.: 178-179° C.; TLC(hexane/EtOAc 2:1): Rf=0.27. More product can be obtained from the filtrate by column chromatography (SiO2; hexane/EtOAc 3:1).

reactant | 6-hydroxy-benzo[b]thiophene-3-carboxylic acid ethyl ester | 11.5 mMol, 2.563 g | C(C)OC(=O)C=1C2=C(SC1)C=C(C=C2)O | C11H10O3S
reactant | 2-amino-4,6-dichloropyrimidine | 18.5 mMol, 3.06 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | K3PO4 | 23 mMol, 5.15 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | NMP | 87 ml | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 6-(2-Amino-6-chloro-pyrimidin-4-yloxy)-benzo[b]thiophene-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C2=C(SC1)C=C(C=C2)OC2=NC(=NC(=C2)Cl)N | C15H12ClN3O3S
